US06451734B1
Methyl 4-[(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-methyl]-2,3-dichlorophenoxyacetate (No. Ia.29)
A solution of 0.6 g (1.7 mmol) of 4-[(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)methyl]-2,3-dichlorophenol, 0.35 g (2.5 mmol) of potassium carbonate, 0.42 g (2.5 mmol) of potassium iodide and 0.39 g (2.5 mmol) of methyl bromoacetate in 30 ml of dimethylformamide was stirred for 16 hours and then admixed with 20 ml of water. The aqueous phase was subsequently extracted with 100 ml of diethyl ether. The extract was washed with water, dried over sodium sulfate and finally concentrated. Yield: 0.4 g;

reactant | 4-[(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)methyl]-2,3-dichlorophenol | 1.7 mmol, 0.6 g | ClC=1C(=NN(C1OC(F)F)C)CC1=C(C(=C(C=C1)O)Cl)Cl | C12H9Cl3F2N2O2
reactant | potassium carbonate | 2.5 mmol, 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2.5 mmol, 0.42 g | [I-].[K+]
reactant | methyl bromoacetate | 2.5 mmol, 0.39 g | BrCC(=O)OC | C3H5BrO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | Methyl 4-[(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-methyl]-2,3-dichlorophenoxyacetate | ClC=1C(=NN(C1OC(F)F)C)CC1=C(C(=C(OCC(=O)OC)C=C1)Cl)Cl | C15H13Cl3F2N2O4
